US08431695B2
Preparation of 1-(4-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-propyl}-piperazin-1-yl)-propan-2-one
5-(2-Benzyl-2H-indazol-6-yl)-7-(3-piperazin-1-yl-propyl)pyrrolo-[2,1-f][1,2,4]triazin-4-ylamine (75 mg, 0.16 mmol) was dissolved in anhydrous DMF (3.2 mL) and treated with K2CO3 (33 mg, 0.24 mmol) followed by the addition of chloroacetone (15 μL, 0.19 mmol). The mixture was heated to 50° C. for 18 h, cooled to rt and poured into water. The aqueous layer was extracted with 3×10 mL of EtOAc and the combined organic phases were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude was purified via preparative HPLC. The product containing fractions were collected, and the TFA from the eluent was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The filtrate was concentrated and the residue was crystallized from DCM-ether to provide the title compound (10.8 mg, 13%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1H), 7.87 (s, 1H), 7.79 (d, 1H), 7.57 (s, 1H), 7.36 to 7.29 (m, 5H), 7.13 (d, 1H), 6.59 (s, 1H), 5.64 (s, 2H), 3.27 to 3.24 (m, 1H), 3.09 (s, 2H), 2.87 (t, 2H), 2.36 to 2.23 (m, 9H), 2.04 (s, 3H), 1.88 to 1.79 (m, 2H); ES-MS m/z 523.2 [M+H]+, RT (min) 2.08.

reactant | 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-piperazin-1-yl-propyl)pyrrolo-[2,1-f][1,2,4]triazin-4-ylamine | 0.16 mmol, 75 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CCCN2CCNCC2 | C27H30N8
reactant | K2CO3 | 0.24 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 0.19 mmol, 15 μL | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
solvent | DMF | 3.2 mL | CN(C)C=O | C3H7NO
product | 1-(4-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-propyl}-piperazin-1-yl)-propan-2-one | 10.8 mg, 13% | NC1=NC=NN2C1=C(C=C2CCCN2CCN(CC2)CC(C)=O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C30H34N8O
